* /home/ash98/esim-workspace/74ls86-test/74ls86-test.cir

.include 74LS86.sub
x1 in1 in2 out ? ? ? gnd ? ? ? ? ? ? net-_x1-pad14_ 74LS86
v1  in1 gnd pulse(0 5 0 0 0 16e-8 32e-8)
v2  in2 gnd pulse(0 5 0 0 0 7e-8 14e-8)
r1  out gnd 1k
v3 net-_x1-pad14_ gnd  dc 5
* u1  in1 plot_v1
* u2  in2 plot_v1
* u3  out plot_v1
.tran 0.1e-08 100e-08 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out)
.endc
.end
